US06579879B2
Step E: 6-(5-Trifluoromethyl-3-methyl-benzofuran-2-sulfonyl)-2H-pyridazin-3-one.
A mixture of 3-methoxy-6-(5-trifluoromethyl-3-methyl-benzofuran-2-sulfonyl)-pyridazine (1.34 mmol, 500 mg), conc. HCl (2 mL), and dioxane (4 mL) was heated at 100° C. for 2 hours. The reaction mixture was cooled and evaporated to dryness. Water (10 mL) was added to the residue. The resulting white solid was collected and air dried to obtain the desired product: 6-(5-trifluoromethyl-3-methyl-benzofuran-2-sulfonyl)-2H-pyridazin-3-one (56%, 270 mg); mp 244° C.-245° C.

reactant | 3-methoxy-6-(5-trifluoromethyl-3-methyl-benzofuran-2-sulfonyl)-pyridazine | 1.34 mmol, 500 mg | COC=1N=NC(=CC1)S(=O)(=O)C=1OC2=C(C1C)C=C(C=C2)C(F)(F)F | C15H11F3N2O4S
reactant | HCl | 2 mL | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 6-(5-Trifluoromethyl-3-methyl-benzofuran-2-sulfonyl)-2H-pyridazin-3-one | FC(C=1C=CC2=C(C(=C(O2)S(=O)(=O)C=2C=CC(NN2)=O)C)C1)(F)F | C14H9F3N2O4S
